US07361659B2
5-(3-Chloro-4-trifluoromethyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid [5-(2-hydroxy-1,1-dimethyl-ethylsulfamoyl)-4-methyl-thiazol-2-yl]-amide
The title compound was prepared from 5-(3-chloro-4-trifluoromethyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.17) and 2-amino-4-methyl-thiazole-5-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide (example B.3) according to general procedure II. Yellow solid. MS (ISP) 655.1 [(M−H)−]; mp 274° C.

reactant | 5-(3-chloro-4-trifluoromethyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | ClC=1C=C(C=CC1C(F)(F)F)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C(=O)O | C15H6ClF6N3O2
reactant | 2-amino-4-methyl-thiazole-5-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide | OCC(C)(C)NS(=O)(=O)C1=C(N=C(S1)N)C | C8H15N3O3S2
product | 5-(3-Chloro-4-trifluoromethyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid [5-(2-hydroxy-1,1-dimethyl-ethylsulfamoyl)-4-methyl-thiazol-2-yl]-amide | OCC(C)(C)NS(=O)(=O)C1=C(N=C(S1)NC(=O)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC(=C(C=C2)C(F)(F)F)Cl)C | C23H19ClF6N6O4S2
